US08440652B2
A mixture of the 3-bromo-5-(4-(ethylsulfonyl)phenyl)pyridin-2-amine (100 mg, 0.29 mmol), 1-oxo-1,2,3,4-tetrahydroisoquinolin-6-ylboronic acid (75 mg, 0.29 mmol), PdCl2(PPh3)2 (7.0 mg, 0.01 mmol) and Na2CO3 in 3:1 MeCN:H2O was microwave heated at 150° C. for 3 min. At completion, the reaction mixture was filtered, then purified by preparatory HPLC to provide 6-(2-amino-5-(4-(ethylsulfonyl)phenyl)pyridin-3-yl)-3,4-dihydroisoquinolin-1(2H)-one as a pale yellow solid (48 mg, 41% yield) after reverse phase preparatory HPLC purification. 1H NMR (400 MHz, MeOD) δ ppm 8.37 (d, J=2.5 Hz, 1H), 8.06 (d, J=8.0 Hz, 1H), 7.94 (d, J=8.5 Hz, 2H), 7.89 (d, J=8.5 Hz, 2H), 7.81 (d, J=2.5 Hz, 1H), 7.53 (d, J=7.8 Hz, 1H), 7.49 (s, 1H), 3.56 (t, J=6.7 Hz, 2H), 3.19-3.27 (m, 2H), 3.07 (q, J=6.5 Hz, 2H), 1.25 (t, J=7.3 Hz, 3 H); MS (EI) m/z: 408 [M+H]+.

reactant | 3-bromo-5-(4-(ethylsulfonyl)phenyl)pyridin-2-amine | 0.29 mmol, 100 mg | BrC=1C(=NC=C(C1)C1=CC=C(C=C1)S(=O)(=O)CC)N | C13H13BrN2O2S
reactant | 1-oxo-1,2,3,4-tetrahydroisoquinolin-6-ylboronic acid | 0.29 mmol, 75 mg | O=C1NCCC2=CC(=CC=C12)B(O)O | C9H10BNO3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | MeCN | CC#N | C2H3N
catalyst | PdCl2(PPh3)2 | 0.01 mmol, 7.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | H2O | O | H2O
product | 6-(2-amino-5-(4-(ethylsulfonyl)phenyl)pyridin-3-yl)-3,4-dihydroisoquinolin-1(2H)-one | 48 mg, 41% yield | NC1=NC=C(C=C1C=1C=C2CCNC(C2=CC1)=O)C1=CC=C(C=C1)S(=O)(=O)CC | C22H21N3O3S
